US07906677B2
To a solution of 5.2 g (37 mmol) of 2-chloro-6-methylaniline and 6.95 g (37.6 mmol) of 4-ethyl bromobenzene in 50 ml of toluene is added 6.5 g (68 mmol) sodium tert-butoxide, 180 mg (0.89 mmol) tri-tert-butylphosphine (dissolved in 2 ml of toluene) and 300 mg (0.52 mmol) of bis-dibenzylideneacetone palladium(0). The mixture is heated under nitrogen to 90° C. for 3 hours and then cooled to room temperature. Hyflo (1 g), water (30 ml) and cone, hydrochloric acid (10 ml) are added and after stirring for 30 minutes the mixture is filtered. The organic phase is washed with water (30 ml) twice and evaporated. The residue is subjected to flash-chromatography on silica (75 g) during with heptane to afford 5.3 g (21.6 mmol. 58%) of N-(2′-chloro-6′-methylphenyl)-4-ethylaniline as an almost colourless liquid.

reactant | 2-chloro-6-methylaniline | 37 mmol, 5.2 g | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | 4-ethyl bromobenzene | 37.6 mmol, 6.95 g | C(C)C1=CC=C(C=C1)Br | C8H9Br
reactant | sodium tert-butoxide | 68 mmol, 6.5 g | CC(C)([O-])C.[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tri-tert-butylphosphine | 0.89 mmol, 2 ml, 180 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | water | 30 ml | O | H2O
product | N-(2′-chloro-6′-methylphenyl)-4-ethylaniline | 21.6 mmol, 5.3 g, 58% | ClC1=C(C(=CC=C1)C)NC1=CC=C(C=C1)CC | C15H16ClN
